US09284331B2
Step 4: 2-(4-cyclopropyl-1H-imidazol-1-yl)-9-(2-methyloxazol-4-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 108. A mixture of 9-(2-methyloxazol-4-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (140 mg, 0.45 mmol) in DCE (10 mL) was treated with POCl3 (84 μL, 0.91 mmol) and heated to 100° C. for 1 h. The mixture was then allowed to cool to RT, poured onto cold H2O and extracted with DCM. The org. phases were dried over Na2SO4, filtered and concentrated in vacuo. The brown residue obtained was taken up in DCE (5 mL) and 4-cyclopropyl-1H-imidazole (59 mg, 0.54 mmol) and pyridine (110 μL, 1.36 mmol) were then added. The mixture was heated to 100° C. for 1 h, and then allowed to cool to RT, poured onto H2O and extracted with DCM. The org. layers were then dried over Na2SO4, filtered and concentrated in vacuo. Purification by SFC (column: 2-Ethylpyridine 5 μm, 250×30 mm, 60 A, Princeton; eluent: 10% MeOH/CO2 for 1 min, then from 10% MeOH/CO2 to 15% MeOH/CO2 in 6 min; then from 15% MeOH/CO2 to 50% MeOH/CO2 in 1 min; flow 100 mL/min; UV detection at 220 nm) afforded the title compound (42 mg) as beige powder. UPLC-MS: MS 400.2 (M+H+); UPLC rt 0.86 min. 1H NMR (400 MHz, CHLOROFORM-d): δ ppm 0.61-0.82 (m, 2 H); 0.82-0.91 (m, 2 H); 1.78-1.96 (m, 1 H); 2.56 (s, 3 H); 3.16 (t, J=6.02 Hz, 2 H); 3.89 (t, J=6.15 Hz, 2 H); 4.37 (br. s., 2 H); 6.62 (s, 1 H); 7.19 (d, J=1.25 Hz, 1 H); 7.38-7.48 (m, 1 H); 7.63-7.70 (m, 2 H); 7.78 (dd, J=7.65, 1.13 Hz, 1 H); 7.89 (d, J=1.26 Hz, 1 H).

reactant | 9-(2-methyloxazol-4-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 0.45 mmol, 140 mg | CC=1OC=C(N1)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C17H15N3O3
reactant | POCl3 | 0.91 mmol, 84 μL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-cyclopropyl-1H-imidazole | 0.54 mmol, 59 mg | C1(CC1)C=1N=CNC1 | C6H8N2
reactant | pyridine | 1.36 mmol, 110 μL | N1=CC=CC=C1 | C5H5N
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
solvent | H2O | O | H2O
product | 2-(4-cyclopropyl-1H-imidazol-1-yl)-9-(2-methyloxazol-4-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 42 mg | C1(CC1)C=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)C=2N=C(OC2)C)=C1)=O | C23H21N5O2
